US05817671
5-(N-[2-methylbenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.065 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.0094 mL (0.072 mMol) 2-methylbenzoyl chloride, 0.023 gm (100%) of the title compound were prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.065 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2-methylbenzoyl chloride | 0.072 mMol, 0.0094 mL | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
product | 5-(N-[2-methylbenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.023 gm, 100% | CC1=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=CC=C1 | C21H24N4O
